US04968702
3-Amino-2-[1,1'-biphenyl]-4-yl-6-chloro-4-quinolinecarboxylic acid
A 3.63 g portion of 5-chloroisatin was added to 35 ml of water in a three-necked, 500 ml flask. A solution of 5.6 g of sodium hydroxide in 20 ml of water was added and the mixture was stirred at 90° C. A solution of 7.43 g of 2-amino-4'-phenylacetophenone hydrochloride in 93 ml of ethanol:water (1:1) was warmed, 25 ml of tetrahydrofuran added to maintain solution and this solution added dropwise to the 5-chloroisatin solution over 3 hours. The solvent was distilled off at 85° C. The remaining solution was cooled, 50 ml of water added and this mixture stirred for 10 minutes. The resulting red solid was collected, dried, stirred in 2.5 liters of water for 1.5 hours and filtered. The filtrate was acidified to pH 4, then the resulting solid was collected, washed with water and dried, giving 5.15 g of the desired product as a yellow solid, mp 244°-245° C.

reactant | 5-chloroisatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | sodium hydroxide | 5.6 g | [OH-].[Na+]
reactant | 2-amino-4'-phenylacetophenone hydrochloride | 7.43 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | ethanol water | 93 ml | C(C)O.O
solvent | water | 35 ml | O | H2O
product | 3-Amino-2-[1,1'-biphenyl]-4-yl-6-chloro-4-quinolinecarboxylic acid | 5.15 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)Cl)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H15ClN2O2
